US04394070
(+)-2-[4-(2-methylbutyl)phenylazo]-5-nitrothiazole
One equivalent of 5-nitro-2-nitroso-thiazole was dissolved in a minimum quantity of glacial acetic acid and one equivalent of (+)-4-(2-methylbutyl)aniline (ex. 4) was added. The solution was allowed to react overnight and the resultant coupled helichromic dye was recovered by precipitation with water. Chromatography on alumina afforded the pure dye compound.

reactant | 5-nitro-2-nitroso-thiazole | One equivalent | [N+](=O)([O-])C1=CN=C(S1)N=O | C3HN3O3S
reactant | (+)-4-(2-methylbutyl)aniline | one equivalent | CC(CC1=CC=C(N)C=C1)CC | C11H17N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (+)-2-[4-(2-methylbutyl)phenylazo]-5-nitrothiazole | CC(CC1=CC=C(C=C1)N=NC=1SC(=CN1)[N+](=O)[O-])CC | C14H16N4O2S
